US06716843B2
(S)-1-[N5-{(Imino)(cyclobutylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, cyclobutanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | cyclobutanesulphonyl chloride | C1(CCC1)S(=O)(=O)Cl | C4H7ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)(cyclobutylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)C1CCC1 | InChI=1S/C14H27N5O3S.ClH/c15-12(13(20)19-9-1-2-10-19)7-4-8-17-14(16)18-23(21,22)11-5-3-6-11;/h11-12H,1-10,15H2,(H3,16,17,18);1H/t12-;/m0./s1
